US05110820
A solution of 9.14 g of methyl 2-(2-phthalimidoethoxy)ethyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate and 4,2 g of hydrazine monohydrate in 100 ml of ethanol was refluxed for 2 hours under heating. After cooling the reaction solution with ice and then adding thereto 100 ml of chloroform, precipitates were removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography. The product was eluted with chloroform-methanol (8:2 v/v) and 4.8 g of 2-(2-aminoethoxy)ethyl methyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate was obtained as liquid.

reactant | methyl 2-(2-phthalimidoethoxy)ethyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 9.14 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCOCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C28H27N3O9
reactant | hydrazine monohydrate | 4,2 g | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(2-aminoethoxy)ethyl methyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 4.8 g | CC=1NC(=C(C(C1C(=O)OCCOCCN)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C20H25N3O7
